US07635715B2
Step A: Preparation of 2-(3,4-Difluorophenyl)-2-methylpropanenitrile
2-(3,4-Difluorophenyl)acetonitrile (25.0 g, 163 mmol) and MeI (25.4 mL, 408 mmol) were dissolved in DMF (163 mL) and added dropwise to a suspension of sodium tert-butoxide (39.2 g, 408 mmol) in DMF at 0° C. The resulting reaction mixture was stirred at 0° C. for 1 hour and then allowed to warm to ambient temperature for 1 hour. The reaction mixture was diluted with 400 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 3 times with 200 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (26.45 g) as a yellow oil.

reactant | 2-(3,4-Difluorophenyl)acetonitrile | 163 mmol, 25.0 g | FC=1C=C(C=CC1F)CC#N | C8H5F2N
reactant | MeI | 408 mmol, 25.4 mL | CI | CH3I
reactant | sodium tert-butoxide | 408 mmol, 39.2 g | CC(C)([O-])C.[Na+]
reactant | DMF | 163 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | 2-(3,4-Difluorophenyl)-2-methylpropanenitrile | 26.45 g | FC=1C=C(C=CC1F)C(C#N)(C)C | C10H9F2N
